US08110585B2
methyl 2-methyl-2H-indazole-4-carboxylate
To a solution of methyl 1H-indazole-4-carboxylate (63.0 g, 358 mmol) in ethyl acetate (1.19 L) was added trimethyloxonium tetrafluoroborate (68.8 g, 465 mmol), and the mixture was stirred under nitrogen atmosphere at room temperature for 12 hr. The reaction solution was diluted with ethyl acetate, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by recrystallization (ethyl acetate/hexane) to give the title compound (57.0 g, yield 84%).

reactant | methyl 1H-indazole-4-carboxylate | 358 mmol, 63.0 g | N1N=CC=2C(=CC=CC12)C(=O)OC | C9H8N2O2
reactant | trimethyloxonium tetrafluoroborate | 465 mmol, 68.8 g | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 1.19 L | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methyl 2-methyl-2H-indazole-4-carboxylate | 57.0 g, yield 84% | CN1N=C2C=CC=C(C2=C1)C(=O)OC | C10H10N2O2
